US06051577
5-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine
N-[3-Cyano-4-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-formamidine: 6.0 g of 2-amino-4-phenyl-1H-pyrrole-3-carbonitrile are dissolved in 80 ml of triethyl orthoformate, and the solution is stirred for 1 hour at 140° C. The triethyl orthoformate is removed under a high vacuum and the residue is dissolved in methanol saturated with ammonia. Stirring is carried out for 24 hours at room temperature, followed by filtration. The product is recrystallised from ethanol. M.p.: 238-239° C.

reactant | N-[3-Cyano-4-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-formamidine | C(#N)C1=C(NC=C1C1=CC=C(C=C1)OC)NC=N | C13H12N4O
reactant | 2-amino-4-phenyl-1H-pyrrole-3-carbonitrile | 6.0 g | NC=1NC=C(C1C#N)C1=CC=CC=C1 | C11H9N3
solvent | triethyl orthoformate | 80 ml | C(OCC)(OCC)OCC | C7H16O3
product | 5-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine | C1(=CC=CC=C1)C1=CNC=2N=CN=C(C21)N | C12H10N4
